US04431589
10-Amino-7-fluoro-2-methyl-2,4-dihydro-1,2,3-triazolo-[4,5-b][1,5]benzodiazepine hydrochloride.
To a slurry of 5-cyano-2-methyl-4[4-fluoro-2-nitro-anilino]-1,2,3-triazole (2.62 g) in ethanol (25 ml) was added anhydrous stannous chloride (5.7 g) in concentrated hydrochloric acid (25 ml) and the solution heated at reflux for one hour, cooled and the resulting solid filtered to give a pale yellow crystalline solid; melting point 275° C.

reactant | 5-cyano-2-methyl-4[4-fluoro-2-nitro-anilino]-1,2,3-triazole | 2.62 g | C(#N)C=1C(=NN(N1)C)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C10H7FN6O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 10-Amino-7-fluoro-2-methyl-2,4-dihydro-1,2,3-triazolo-[4,5-b][1,5]benzodiazepine hydrochloride | Cl.NC=1C=2C(NC3=C(N1)C=C(C=C3)F)=NN(N2)C | InChI=1S/C10H9FN6.ClH/c1-17-15-8-9(12)13-7-4-5(11)2-3-6(7)14-10(8)16-17;/h2-4H,1H3,(H2,12,13)(H,14,16);1H
